US07547691B2
(4-(3-Aminopropyl)-piperazine-1-carboxylic acid tert-butyl ester (0.542 g, 2.23 mmol) is added to a stirred suspension of 2-(2-chloro-5-fluoropyrimidin-4-yl)-benzo[b]thiophene-4-carboxylic acid cyclopropylamide (0.388 g, 1.12 mmol) and diisopropylethylamine (0.585 mL, 3.36 mmol) in anhydrous 1,4-dioxane (10 mL) at room temperature under nitrogen. The resultant mixture is heated in an oil bath at 95° C. for 24 hours. At room temperature, the mixture is concentrated and chromatographed on silica gel, eluting with 2 M NH3/CH3OH in dichloromethane: 0-7%, to give 4-{3-[4-(4-cyclopropylcarbamoyl-benzo[b]thiophen-2-yl)-5-fluoropyrimidin-2-ylamino]-propyl}-piperazine-1-carboxylic acid tert-butyl ester as a yellow solid (452 mg). The product is dissolved in CH3OH (80 mL) and dichloromethane (20 mL) and a small stream of anhydrous HCl gas is bubbled through the stirred solution for 3 minutes. The warm solution is capped with a glass stopper and stirred at room temperature overnight. After concentration, the title compound is obtained as a yellow solid (441 mg). ES+(m/z) 455 [M(free base)+H].

reactant | 4-(3-Aminopropyl)-piperazine-1-carboxylic acid tert-butyl ester | 2.23 mmol, 0.542 g | C(C)(C)(C)OC(=O)N1CCN(CC1)CCCN | C12H25N3O2
reactant | 2-(2-chloro-5-fluoropyrimidin-4-yl)-benzo[b]thiophene-4-carboxylic acid cyclopropylamide | 1.12 mmol, 0.388 g | C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2F)Cl | C16H11ClFN3OS
reactant | diisopropylethylamine | 3.36 mmol, 0.585 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 4-{3-[4-(4-cyclopropylcarbamoyl-benzo[b]thiophen-2-yl)-5-fluoropyrimidin-2-ylamino]-propyl}-piperazine-1-carboxylic acid tert-butyl ester | 452 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)CCCNC1=NC=C(C(=N1)C1=CC2=C(S1)C=CC=C2C(NC2CC2)=O)F | C28H35FN6O3S
